US05286721
To a solution of 741 mg of allyl (5R,6S)-3-[2-allyloxycarbonylamino-1-(N-allyloxycarbonylaminomethyl)ethyl]-6-[(R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate in 9.25 ml of tetrahydrofuran and 3.07 ml of ethanol were added successively 163 mg of triphenylphosphine, 870 mg of dimedone, 0.089 ml of acetic acid and 143 mg of tetrakis(triphenylphosphine)palladium at room temperature under nitrogen. The mixture was stirred at 30° C. for a few minutes, and then stirring was continued at room temperature for 30 minutes. After a pale yellow precipitate was deposited, 2.2 ml of ethyl acetate was added. The precipitate was filtrated and washed with ethyl acetate and dichloromethane under nitrogen, and dissolved in pH 6.86 buffer solution. 399 mg of Benzyl formimidate hydrochloride was added to the solution at 0° C., while the pH was kept at 8.5. After stirring for 1.5 hours at pH 7.0, the reaction mixture was washed five times with 30% tetrahydrofuran in ethyl acetate while the pH was kept at pH 7. Purification was carried out by a column chromatography on "Diaion HP-20" (trademark, made by Mitsubishi Chemical Industries) (eluent: water followed by 2% acetonitrile in water) and silica gel (eluent: 0-30% water in acetonitrile gradiently) successively to give 99 mg of [5R,6S)-6-[(R)-1-hydroxyethyl]-3-[3,4,5,6-tetrahydropyrimidin-5-yl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid.

reactant | allyl (5R,6S)-3-[2-allyloxycarbonylamino-1-(N-allyloxycarbonylaminomethyl)ethyl]-6-[(R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 741 mg | C(C=C)OC(=O)NCC(CNC(=O)OCC=C)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O)=O)C(=O)OCC=C | C23H31N3O8
reactant | triphenylphosphine | 163 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dimedone | 870 mg | CC1(CC(=O)CC(=O)C1)C | C8H12O2
reactant | acetic acid | 0.089 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 9.25 ml | O1CCCC1 | C4H8O
solvent | ethanol | 3.07 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 143 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | 2.2 ml | C(C)(=O)OCC | C4H8O2
product | [5R,6S)-6-[(R)-1-hydroxyethyl]-3-[3,4,5,6-tetrahydropyrimidin-5-yl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 99 mg | O[C@H](C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)O)C1CNC=NC1 | C13H17N3O4
